US06358980B1
1-(4-Bromo-benzyl)-4-[4-(4-morpholin-4-yl-but-2-ynyloxy)-benzenesulfonyl]-piperidine-4-carboxylic acid was prepared starting from 1-(4-bromo-benzyl)-4-[4-(4-morpholin-4-yl-but-2-ynyloxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester (2.87 g, 4.6 mmol) dissolved in THF:methanol (3:1, 150 ml) and 10 N NaOH (10 ml). The resulting reaction mixture was worked up as outlined in Example 1 (Step 7). Yield 2.26 g (83%); white powder; mp 198° C.; MS: 593.1 (M+H)+

reactant | 1-(4-bromo-benzyl)-4-[4-(4-morpholin-4-yl-but-2-ynyloxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester | 4.6 mmol, 2.87 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)Br)S(=O)(=O)C1=CC=C(C=C1)OCC#CCN1CCOCC1 | C29H35BrN2O6S
solvent | THF methanol | 150 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 10 ml | [OH-].[Na+]
product | 1-(4-Bromo-benzyl)-4-[4-(4-morpholin-4-yl-but-2-ynyloxy)-benzenesulfonyl]-piperidine-4-carboxylic acid | BrC1=CC=C(CN2CCC(CC2)(C(=O)O)S(=O)(=O)C2=CC=C(C=C2)OCC#CCN2CCOCC2)C=C1 | C27H31BrN2O6S
